US05414156
For example, U.S. Pat. No. 2,831,898 discloses a process for producing 2,6-diisopropyl phenol from propylene gas and phenol by Friedel-Crafts reaction at high pressure of 21-35 atm, high temperature of 200°-210° C. and under nitrogen atmosphere with aluminum phenoxide, as a catalyst, prepared from alumina and phenol. But there is a defect that 2,6-diisopropyl phenol desired was obtained only with 11.3% yield even though 2-isopropyl phenol which is a by-product was obtained with 31.4% yield.

reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | 2,6-diisopropyl phenol | C(C)(C)C1=C(C(=CC=C1)C(C)C)O | C12H18O
catalyst | aluminum phenoxide | [O-]C1=CC=CC=C1.[Al+3].[O-]C1=CC=CC=C1.[O-]C1=CC=CC=C1
product | 2-isopropyl phenol | 11.3% yield | C(C)(C)C1=C(C=CC=C1)O | C9H12O
